* C:\Users\DELL\Desktop\LTSPICENETLIST\gpio input buffer.asc
M1 A A vdd N013 PMOS l=0.18u w=50u
M2 vdd A N017 N014 PMOS l=0.18u w=50u
M3 vdd N017 TO_CORE N015 PMOS l=0.18u w=50u
M5 N017 A 0 N020 NMOS l=0.18u w=50u
M6 TO_CORE N017 0 N021 NMOS l=0.18u w=50u
M4 0 A A N019 NMOS l=0.18u w=50u
V1 A 0 PULSE(0 2 0 1m 1m 7m 10m)
M7 Vdd Vdd N006 N004 NMOS l=0.18u w=50u
M8 Vdd TO_CORE Y N005 NMOS l=0.18u w=50u
M9 N006 TO_CORE 0 N009 NMOS l=0.18u w=50u
M10 Y N006 0 N010 NMOS l=0.18u w=50u
M11 en0 en1 0 0 NMOS l=0.18u w=50u
M12 Vdd en1 en0 N002 PMOS l=0.18u w=50u
V§ENABLE en1 0 PULSE(0 2 0 1m 1m 7m 10m)
M13 VDD PUEN TO_CORE N001 NMOS l=0.18u w=50u
M14 N012 PDEN 0 N018 NMOS l=0.18u w=50u
M15 N007 Y N008 N008 NMOS l=0.18u w=50u
M16 N008 PI 0 0 NMOS l=0.18u w=50u
M17 N003 Y N007 N003 PMOS l=0.18u w=50u
M18 0 PI N003 N003 PMOS l=0.18u w=50u
M19 VDD PDEN N012 N011 PMOS l=0.18u w=50u
M20 TO_CORE N012 0 N016 PMOS l=0.18u w=50u
V3 PUEN 0 PULSE(0 2 0 1m 1m 7m 10m)
V2 PI 0 PULSE(0 2 0 1m 1m 7m 10m)
V4 PDEN 0 PULSE(0 2 0 1m 1m 7m 10m)
.model NMOS NMOS
.model PMOS PMOS
*.lib C:\Users\DELL\Documents\LTspiceXVII\lib\cmp\standard.mos
Vdd Vdd 0 DC 3.8
.tran 100m
*.backanno
.end
